US05981559
A mixture of ethyl 2-[3-[(4-tert-butyl-2-thiazolyl)methoxy]benzoylamino]-4-[3-(4-chlorophenylsulfonyl)propyl]phenoxyacetate (176 mg, 0.26 mmol), diphosphorus pentasulfide (69 mg, 0.31 mmol), sodium bicarbonate (28 mg, 0.33 mmol) and 1,2-dimethoxyethane (5 ml) was stirred for 5 hours with heating under reflux, and insoluble matter was removed by filtration. The resulting filtrate was diluted with ethyl acetate, washed with water and brine in that order, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. Thereafter, the resulting residue was purified by silica gel column chromatography (eluent=hexane:ethyl acetate=3:1-2:1) to give ethyl 2-[3-[(4-tert-butyl-2-thiazolyl)methoxy]thiobenzoylamino]-4-[3-(4-chlorophenylsulfonyl)propyl]phenoxyacetate (143 mg, 0.20 mmol, 78%).

reactant | ethyl 2-[3-[(4-tert-butyl-2-thiazolyl)methoxy]benzoylamino]-4-[3-(4-chlorophenylsulfonyl)propyl]phenoxyacetate | 0.26 mmol, 176 mg | C(C)(C)(C)C=1N=C(SC1)COC=1C=C(C(=O)NC2=C(OCC(=O)OCC)C=CC(=C2)CCCS(=O)(=O)C2=CC=C(C=C2)Cl)C=CC1 | C34H37ClN2O7S2
reactant | diphosphorus pentasulfide | 0.31 mmol, 69 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | sodium bicarbonate | 0.33 mmol, 28 mg | C([O-])(O)=O.[Na+]
solvent | 1,2-dimethoxyethane | 5 ml | COCCOC | C4H10O2
product | ethyl 2-[3-[(4-tert-butyl-2-thiazolyl)methoxy]thiobenzoylamino]-4-[3-(4-chlorophenylsulfonyl)propyl]phenoxyacetate | 0.20 mmol, 143 mg, 78% | C(C)(C)(C)C=1N=C(SC1)COC=1C=C(C(=S)NC2=C(OCC(=O)OCC)C=CC(=C2)CCCS(=O)(=O)C2=CC=C(C=C2)Cl)C=CC1 | C34H37ClN2O6S3
